US06228872B1
3-(3-Pyridyl)propyl-4-(3,4-dimethoxyphenyl)butylamine
A stirred solution of 3-(3-pyridyl)propylamine (517.8 mg, 1.679 mmoles), 4-(3,4-dimethoxyphenyl)butanoic acid (376.5 mg, 1 equiv.) and N-hydroxysuccinimide (193.2 mg, 1.1 equiv.) in methylene chloride (15 mL) at 0° C. was treated with EDC hydrochloride (353.1 mg, 1.1 equiv.). The mixture was allowed to warm to room temperature after 10 minutes. Stirring was continued for 16 hours and then the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate and water. The aqueous phase was re-extracted with ethyl acetate. The combined organic phases were washed with water and brine, dried over sodium sulfate and evaporated to give a colorless oil. This crude amide was dissolved in dry tetrahydrofuran (5 mL) under argon. The solution was cooled to 0° C. and then treated with 1 M borane-tetrahydrofuran complex (7.0 mL, 4 equiv.). The mixture was heated at reflux for 16 hours and then cooled to room temperature. Dry methanol (10 mL) was added carefully to the stirred mixture to avoid foaming. The resulting solution was evaporated under reduced pressure and the residue dissolved in dry methanol (20 mL). The mixture was heated at reflux for 4 hours and then evaporated. The crude amine was carried on without purification.

reactant | 3-(3-pyridyl)propylamine | 1.679 mmoles, 517.8 mg | N1=CC(=CC=C1)CCCN | C8H12N2
reactant | 4-(3,4-dimethoxyphenyl)butanoic acid | 376.5 mg, 1 equiv. | COC=1C=C(C=CC1OC)CCCC(=O)O | C12H16O4
reactant | N-hydroxysuccinimide | 193.2 mg, 1.1 equiv. | ON1C(CCC1=O)=O | C4H5NO3
reactant | EDC hydrochloride | 353.1 mg, 1.1 equiv. | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 3-(3-Pyridyl)propyl-4-(3,4-dimethoxyphenyl)butylamine | N1=CC(=CC=C1)CCCNCCCCC1=CC(=C(C=C1)OC)OC | C20H28N2O2
